US05541229
a) 2-n-butyl-6-nitro-benzimidazole
11.5 g (0.075 mol) of 4-nitro-o-phenylenediamine are introduced in portions at ambient temperature into a mixture of 8.66 g (0.085 mol) of valeric acid and 120 ml of phosphorus oxychloride. The mixture is then heated for 3 hours under reflux. The reaction mixture is separated in 1.5 kg of iced water, rendered alkaline using concentrated ammonia and extracted three times using 500 ml of ethyl acetate. The organic phase is separated off, dried using magnesium sulphate and rotary evaporated. The oily residue is purified over a silica gel column (grain size: 0.063-0.2 mm, eluting agent: methylene chloride/0-2% ethanol). The homogeneous fractions are evaporated to dryness.

reactant | 4-nitro-o-phenylenediamine | 0.075 mol, 11.5 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | valeric acid | 0.085 mol, 8.66 g | C(CCCC)(=O)O | C5H10O2
solvent | phosphorus oxychloride | 120 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-n-butyl-6-nitro-benzimidazole | C(CCC)C=1NC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C11H13N3O2
